US05679678
N-{4[5-(4-Fluorophenoxy)-2-furanyl]-2-thiazolyl}-6-(2-furanyl)-4-hydroxy-2-methyl-2H-thieno[2,3-]-1,2-thiazine-3-carboxamide 1,1-dioxide
0.339 g (0.99 mmol) of methyl 6-(2-furanyl)-4-hydroxy-2-methyl-2H-thieno[2,3-e]-1,2-thiazine-3-carboxylate 1,1-dioxide and 0.398 g (1.44 mmol) of 4-[5-(4-fluorophenoxy)-2-furanyl]-2-thiazolamine are heated to boiling in 3 ml of absolute xylene. After 4.5 h, the suspension is cooled, and the precipitated product is filtered off, digested several times with diethyl ether and recrystallized from dimethyl sulphoxide/acetone 10:1.

reactant | methyl 6-(2-furanyl)-4-hydroxy-2-methyl-2H-thieno[2,3-e]-1,2-thiazine-3-carboxylate 1,1-dioxide | 0.99 mmol, 0.339 g | O1C(=CC=C1)C1=CC2=C(C(=C(N(S2(=O)=O)C)C(=O)OC)O)S1 | C13H11NO6S2
reactant | 4-[5-(4-fluorophenoxy)-2-furanyl]-2-thiazolamine | 1.44 mmol, 0.398 g | FC1=CC=C(OC2=CC=C(O2)C=2N=C(SC2)N)C=C1 | C13H9FN2O2S
solvent | xylene | 3 ml | C=1(C(=CC=CC1)C)C | C8H10
product | N-{4[5-(4-Fluorophenoxy)-2-furanyl]-2-thiazolyl}-6-(2-furanyl)-4-hydroxy-2-methyl-2H-thieno[2,3-]-1,2-thiazine-3-carboxamide 1,1-dioxide | FC1=CC=C(OC2=CC=C(O2)C=2N=C(SC2)NC(=O)C=2N(S(C3=C(C2O)SC(=C3)C=3OC=CC3)(=O)=O)C)C=C1 | C25H16FN3O7S3
